US05741800
A solution of triethyl 2-phosphonopropionate (50.0 g) in dry tetrahydrofuran (75 ml) was added dropwise to a stirred suspension of sodium hydride (60% in mineral oil, 8.0 g) in dry tetrahydrofuran (275 ml) under nitrogen and stirred at 20° C. for 10 minutes until a clear solution was formed. 1-Benzoyl-4-piperidone (34.5 g) in dry tetrahydrofuran (75 ml) was added dropwise to the clear solution and the reaction mixture heated under reflux for 16 hours. After quenching the reaction mixture with 5M hydrochloric acid (20 ml), the resulting solid was removed by filtration. Excess ether was added to the filtrate, the aqueous layer separated off and the ethereal layer washed (water), dried, filtered and concentrated to give ethyl 2-(1-benzoyl-4-piperidylidene)propionate as an oil.

reactant | triethyl 2-phosphonopropionate | 50.0 g | CCOC(=O)C(C)P(=O)(OCC)OCC | C9H19O5P
reactant | sodium hydride | 8.0 g | [H-].[Na+]
reactant | 1-Benzoyl-4-piperidone | 34.5 g | C(C1=CC=CC=C1)(=O)N1CCC(CC1)=O | C12H13NO2
solvent | tetrahydrofuran | 75 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 275 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 75 ml | O1CCCC1 | C4H8O
product | ethyl 2-(1-benzoyl-4-piperidylidene)propionate | C(C1=CC=CC=C1)(=O)N1CCC(CC1)=C(C(=O)OCC)C | C17H21NO3
